US07723333B2
2-Isopropyl-5-phenyl-4-[(2-pyridin-4-ylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and (2-pyridin-4-ylethyl)amine in a similar manner as described for Example 118. 1H NMR (500 MHz CDCl3): δ 1.59 (d, 6H), 2.58 (t, 2H), 3.18 (q, 2H), 4.37-4.45 (m, 1H), 5.44 (t, 1H), 6.71-6.73 (m, 2H), 7.46-7.57 (m, 5H), 8.44-8.46 (m, 2H); 13C NMR (125 MHz CDCl3): δ 20.37, 35.42, 44.14, 47.90, 107.90, 123.96, 125.15, 129.14, 130.19, 131.83, 135.12, 146.48, 150.27, 158.57; Mass Spectrum: M+H+ 372.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | (2-pyridin-4-ylethyl)amine | N1=CC=C(C=C1)CCN | C7H10N2
product | 2-Isopropyl-5-phenyl-4-[(2-pyridin-4-ylethyl)amino]isothiazol-3(2H)-one 1,1-dioxide | C(C)(C)N1S(C(=C(C1=O)NCCC1=CC=NC=C1)C1=CC=CC=C1)(=O)=O | C19H21N3O3S
